US05292767
trans-2-(1-acetylthio-1-methylethyl)-4-carboxytetrahydrothiophene (compound No. 13-1)
trans-4-carboxy-2-(1-mercapto-1-methylethyl)tetrahydrothiophene (compound No. 8-1, 50 mg) was dissolved in a mixture of acetic anhydride (1 ml) and pyridine (1 ml) and the mixture was stirred over night at room temperature. The reaction mixture was concentrated in vacuo and the oily residue was purified by a silica gel column chromatography to give 43 mg (72%) of the titled compound (compound No. 13-1).

reactant | trans-4-carboxy-2-(1-mercapto-1-methylethyl)tetrahydrothiophene | 50 mg | C(=O)(O)[C@H]1C[C@@H](SC1)C(C)(C)S | C8H14O2S2
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | trans-2-(1-acetylthio-1-methylethyl)-4-carboxytetrahydrothiophene | 43 mg, 72% | C(C)(=O)SC(C)(C)[C@@H]1SC[C@H](C1)C(=O)O | C10H16O3S2
